US05814648
B: Ethyl 3-(4,5-dihydro-4(S)-phenyloxazol-2-yl)phenoxyacetate
To a vigorously stirred mixture of 4,5-dihydro-2-(3-hydroxyphenyl)-4(S)-phenyloxazole (2.04 g, 8.5 mmol) and potassium carbonate (2.36 g, 17 mmol) in DMF (40 ml) was added dropwise over 5 min. a solution of ethyl bromoacetate (1.71 g, 10.2 mmol) in DMF (5 ml) at ambient temperature. The reaction mixture was stirred for 12 h and then poured into water (100 ml). The mixture was extracted with diethyl ether (3×50 ml), and the combined extracts were washed with brine (50 ml), dried (MgSO4) and concentrated under reduced pressure to afford title compound (2.77 g, quant.) as a pale yellow liquid.

reactant | 4,5-dihydro-2-(3-hydroxyphenyl)-4(S)-phenyloxazole | 8.5 mmol, 2.04 g | OC=1C=C(C=CC1)C=1OC[C@@H](N1)C1=CC=CC=C1 | C15H13NO2
reactant | potassium carbonate | 17 mmol, 2.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 10.2 mmol, 1.71 g | BrCC(=O)OCC | C4H7BrO2
reactant | water | 100 ml | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Ethyl 3-(4,5-dihydro-4(S)-phenyloxazol-2-yl)phenoxyacetate | 2.77 g | C1(=CC=CC=C1)[C@@H]1N=C(OC1)C=1C=C(OCC(=O)OCC)C=CC1 | C19H19NO4
